US07737166B2
2-Amino-4-fluoro-5-iodo-3-methoxy-6-methylbenzamide (I-33)
Under nitrogen atmosphere, ammonium acetate (4.62 g, 60.0 mmol) was added to an N,N-dimethylformamide (120 ml) solution of 7-fluoro-6-iodo-8-methoxy-5-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (I-31) (4.2 g, 12.0 mmol), followed by stirring at room temperature for 16 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, washed three times with saturated brine, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was suspended in diisopropyl ether, followed by filtration and drying to obtain the entitled compound (3.74 g, 96%) as a white solid.

reactant | ammonium acetate | 60.0 mmol, 4.62 g | C(C)(=O)[O-].[NH4+]
reactant | 7-fluoro-6-iodo-8-methoxy-5-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 12.0 mmol, 4.2 g | FC=1C(=C(C2=C(NC(OC2=O)=O)C1OC)C)I | C10H7FINO4
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 2-Amino-4-fluoro-5-iodo-3-methoxy-6-methylbenzamide | 3.74 g, 96% | NC1=C(C(=O)N)C(=C(C(=C1OC)F)I)C | C9H10FIN2O2
